US09399623B2
3-{6-Chloro-5-[(4,4-difluorocyclohexylmethyl)-carbamoyl]-quinolin-2-ylamino}-propionic acid (83)
To a solution of 3-{6-Chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-ylamino}-propionic acid ethyl ester (80 mg, 0.17 mmol, 1.00 eq) in THF (8.00 mL, 100 V) and Water (2.00 mL, 25 V) was added Lithium Hydroxide Monohydrate (14.72 mg, 0.35 mmol, 2.00 eq). The reaction mixture was stirred for overnight at room temperature. The reaction mixture was concentrated under vacuum. The aqueous solution was adjusted to pH 2 and then extracted with ethyl acetate and combined organic layer was collected and dried over anhydrous sodium sulphate, filtered, concentrated under vacuum. The crude was purified by preparative HPLC to afford the title compound (35 mg, 0.08 mmol, 45.3%) as a off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.69 (t, J=6.01 Hz, 1H), 7.60 (d, J=9.22 Hz, 1H), 7.46-7.52 (m, 2H), 7.31-7.33 (m, 1H), 6.84 (d, J=9.24 Hz, 1H), 3.57 (q, J=6.43 Hz, 2H), 3.22 (t, J=6.40 Hz, 2H), 2.54-2.57 (m, 2H), 2.03-2.00 (m, 2H), 1.72-1.89 (m, 5H), 1.22-1.31 (m, 2H). m/z: 426.0 [M+H]+

reactant | 3-{6-Chloro-5-[(4,4-difluoro-cyclohexylmethyl)-carbamoyl]-quinolin-2-ylamino}-propionic acid ethyl ester | 0.17 mmol, 80 mg, 1.00 eq | C(C)OC(CCNC1=NC2=CC=C(C(=C2C=C1)C(NCC1CCC(CC1)(F)F)=O)Cl)=O | C22H26ClF2N3O3
reactant | Lithium Hydroxide Monohydrate | 0.35 mmol, 14.72 mg, 2.00 eq | O.[OH-].[Li+]
solvent | THF | 8.00 mL | C1CCOC1 | C4H8O
solvent | Water | 2.00 mL | O | H2O
product | 3-{6-Chloro-5-[(4,4-difluorocyclohexylmethyl)-carbamoyl]-quinolin-2-ylamino}-propionic acid | 0.08 mmol, 35 mg, 45.3% | ClC=1C(=C2C=CC(=NC2=CC1)NCCC(=O)O)C(NCC1CCC(CC1)(F)F)=O | C20H22ClF2N3O3
